US08669369B2
4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido)phenoxy)picolinic acid (0.5 g, 1.11 mmol) was suspended in methanol (10 mL). Concentrated sulfuric acid (2 mL) was added at room temperature, and the resulted mixture was refluxed for 3 hours. The solvent was removed under reduced pressure, and the residue was purified by column chromatography (dichloromethane:methanol=10:1) to give methyl 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido)phenoxy)picolinate A11 (0.46 g, purity 95%, yield 90%) as a white solid.

reactant | 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido)phenoxy)picolinic acid | 1.11 mmol, 0.5 g | ClC1=C(C=C(C=C1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(=O)O)C=C1)=O)C(F)(F)F | C20H13ClF3N3O4
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 10 mL | CO | CH4O
product | methyl 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido)phenoxy)picolinate | yield 90% | ClC1=C(C=C(C=C1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(=O)OC)C=C1)=O)C(F)(F)F | C21H15ClF3N3O4
